2168-10-12 07:04:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   24 Hour Events:
 EKG - At [**2168-10-11**] 06:12 PM
 EKG - At [**2168-10-11**] 06:12 PM
 NASAL SWAB - At [**2168-10-11**] 06:40 PM
 URINE CULTURE - At [**2168-10-11**] 06:40 PM
 BLOOD CULTURED - At [**2168-10-11**] 06:40 PM
   .
   Tox recs q4h chem 10 and EKG
   bicarb gtt
   Renal said no bicarb unless arrhythmia
   Gave MS contin 30mg x1 (normal dose is 60mg tid)
   FENA 1.6
   Allergies:
   Neurontin (Oral) (Gabapentin)
   Headache;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-10-11**] 08:27 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-10-12**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.3
   HR: 105 (80 - 113) bpm
   BP: 121/81(91) {98/55(63) - 121/85(91)} mmHg
   RR: 22 (10 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,065 mL
                                                                    270 mL
   PO:
             200 mL
   TF:
   IVF:
                                                                  2,065 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  1,270 mL
                                                                  1,020 mL
   Urine:
                                                                  1,270 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    795 mL
                                                                   -750 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.26/42/89.[**Numeric Identifier 126**]/21/-7
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   269 K/uL
   8.9 g/dL
   87 mg/dL
   1.1 mg/dL
   21 mEq/L
   4.2 mEq/L
   35 mg/dL
   111 mEq/L
   142 mEq/L
   24.9 %
   5.4 K/uL
        [image002.jpg]
                            [**2168-10-11**]  06:14 PM
                            [**2168-10-11**]  07:03 PM
                            [**2168-10-11**]  09:56 PM
                            [**2168-10-12**]  04:35 AM
   WBC
   5.4
   5.4
   Hct
   25.3
   24.9
   Plt
   252
   269
   Cr
   2.1
   1.5
   1.1
   TCO2
   20
   Glucose
   118
   113
   87
   Other labs: PT / PTT / INR:12.0/22.2/1.0, CK / CKMB / Troponin-T:857//,
   ALT / AST:40/45, Alk Phos / T Bili:125/0.2, Lactic Acid:0.5 mmol/L,
   LDH:197 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   44 yo F with a history of chronic back pain, found today with altered
   mental status, hypotension, acute renal failure, and hyponatremia.
   #  Altered mental status: Patient has an odd affect, unclear if this is
   unusual for her. Intoxication vs. CNS process. Anion gap of 17. Patient
   has positive tox screen for methadone and tricyclics. Takes tricyclics
   at home and this dose has recently been increased.  Overdose would
   result in tachycardia, hypotension, and urinary retention, which she
   has demonstrated. CT head negative. Neuro exam non focal.  Anion gap of
   17, concerning possibly for ingestion of methanol or ethylene glycol.
   No ketonuria. If this is in fact an ingestion, would continue with
   supportive care.
   -check serum osms, lactate, ketones
   -fall precautions
   -supplemental O2 as needed
   -IV fluids to keep MAPs>55
   -ABG
   -consult toxicology
   -if becomes less responsive or apneic, would give narcan
   .
   # Hypotension: Differential includes hypovolemia vs. tricyclic
   ingestion vs. methadone ingestion. Afebrile. No focal signs of
   infection concerning for septic physiology. Adrenal insufficiency is an
   alternate possibility.
   -panculture
   -repeat CXR in AM
   -IV fluids to keep MAPs > 55
   -if requires pressors, would consider neo. However, patient would need
   central line placement.
   -serum cortisol in AM
   .
   .
   # Syncope: Likely secondary to hypotension. Neuro exam non focal. No
   saddle anesthesia. Head CT negative.
   -see above management for hypotension and AMS
   .
   # Acute renal failure: Baseline Cr 0.6. Cr 3.9. Likely prerenal given
   history of poor po intake over past week. However, patient had 1L
   retained urine in ED, more concerning for ingestion vs. obstruction.
   -urine lytes
   -obtain CK
   -trial of IV fluids
   -repeat chem 10
   -renal US pending
   -renal consulted -f/u recs
   .
   # Hyponatremia: Na 132. Likely hypovolemia given poor po intake and
   acute renal failure. Alternatively this could be SIADH [**12-28**] pain.
   -urine lytes
   -IV fluid boluses
   -repeat chem 10
   .
   # Urinary retention: Ingestion vs. obstruction. Likely ingestion given
   overall cinical picture and positive tox screen for tricyclics and
   methadone.
   -foley in place
   -f/u renal US
   .
   # FEN: IVFs / replete lytes prn / NPO for now given altered mental
   status.
   # PPX: heparin SQ, bowel regimen
   # ACCESS: PIV x2
   # CODE: FULL
   # CONTACT:
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2168-10-11**] 05:37 PM
   18 Gauge - [**2168-10-11**] 05:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-10-12 09:43:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - MS Contin x 1 dose
   Allergies:
   Neurontin (Oral) (Gabapentin)
   Headache;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-10-11**] 08:27 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-10-12**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.1
C (97
   HR: 82 (80 - 113) bpm
   BP: 118/69(80) {98/55(63) - 121/85(91)} mmHg
   RR: 11 (10 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,065 mL
                                                                    296 mL
   PO:
             200 mL
   TF:
   IVF:
                                                                  2,065 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                  1,270 mL
                                                                  1,360 mL
   Urine:
                                                                  1,270 mL
                                                                  1,360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    795 mL
                                                                 -1,065 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.26/42/89.[**Numeric Identifier 126**]/21/-7
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   269 K/uL
   87 mg/dL
   1.1 mg/dL
   21 mEq/L
   4.2 mEq/L
   35 mg/dL
   111 mEq/L
   142 mEq/L
   24.9 %
   5.4 K/uL
        [image002.jpg]
                            [**2168-10-11**]  06:14 PM
                            [**2168-10-11**]  07:03 PM
                            [**2168-10-11**]  09:56 PM
                            [**2168-10-12**]  04:35 AM
   WBC
   5.4
   5.4
   Hct
   25.3
   24.9
   Plt
   252
   269
   Cr
   2.1
   1.5
   1.1
   TCO2
   20
   Glucose
   118
   113
   87
   Other labs: PT / PTT / INR:12.0/22.2/1.0, CK / CKMB / Troponin-T:857//,
   ALT / AST:40/45, Alk Phos / T Bili:125/0.2, Lactic Acid:0.5 mmol/L,
   LDH:197 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR - Unremarkable.
   Microbiology: No new culture data. Influenza pending.
   Assessment and Plan
   This is a 44 yo F with a history of chronic back pain, found today with
   altered mental status, hypotension, acute renal failure, and
   hyponatremia in the setting of a tox screen positive for tricyclics and
   methadone.
   #  Altered mental status: Broad differential including hyponatremia,
   uremia, hypotension, or toxic ingestion (methadone or tricyclic
   overdose).  Tricyclic toxicity would fit with her hypotension,
   tachycardia, and urinary retention.  Head CT negative and neuro exam
   non-focal.   Improved today.
   - Fall precautions
   - Psychiatry f/u as outpatient
   - Social work consult for illicit methadone use
   # Hypotension/Syncope: Differential includes hypovolemia vs. tricyclic
   ingestion vs. methadone ingestion. Afebrile. No focal signs of
   infection concerning for septic physiology. No further episodes
   overnight.
   - F/U cultures
   - F/U cortisol
   # Acute renal failure: Creatinine increased from 0.6 to 3.9, now down
   to 1.1 with foley placement and IVF.
   - Leave foley in for now
   - Appreciate renal consult
   # Urinary retention: Ingestion vs. obstruction. Likely ingestion given
   overall cinical picture and positive tox screen for tricyclics and
   methadone.   Renal U/S unremarkable.
   - Foley in place
   # Hyponatremia: Likely [**12-28**] hypovolemia.  Now resolved.
   # Pain:
   - Restart home regimen
   - Discuss management with outpatient MD
   ICU Care
   Nutrition: Full diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2168-10-11**] 05:37 PM
   18 Gauge - [**2168-10-11**] 05:38 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 20 minutes

2168-10-13 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT yesterday morning
   Allergies:
   Neurontin (Oral) (Gabapentin)
   Headache;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-10-12**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-10-13**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98
   HR: 88 (71 - 105) bpm
   BP: 142/91(103) {98/50(34) - 142/99(103)} mmHg
   RR: 16 (7 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    440 mL
                                                                     16 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                    240 mL
                                                                     16 mL
   Blood products:
   Total out:
                                                                  2,380 mL
                                                                    760 mL
   Urine:
                                                                  2,380 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,940 mL
                                                                   -744 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   280 K/uL
   8.3 g/dL
   94 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.6 mEq/L
   16 mg/dL
   110 mEq/L
   142 mEq/L
   23.8 %
   4.3 K/uL
        [image002.jpg]
                            [**2168-10-11**]  06:14 PM
                            [**2168-10-11**]  07:03 PM
                            [**2168-10-11**]  09:56 PM
                            [**2168-10-12**]  04:35 AM
                            [**2168-10-13**]  04:58 AM
   WBC
   5.4
   5.4
   4.3
   Hct
   25.3
   24.9
   23.8
   Plt
   [**Telephone/Fax (3) 11629**]
   Cr
   2.1
   1.5
   1.1
   0.7
   TCO2
   20
   Glucose
   118
   113
   87
   94
   Other labs: PT / PTT / INR:12.0/22.2/1.0, CK / CKMB / Troponin-T:857//,
   ALT / AST:40/45, Alk Phos / T Bili:125/0.2, Lactic Acid:0.5 mmol/L,
   LDH:197 IU/L, Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   44 yo F with a history of chronic back pain, found today with altered
   mental status, hypotension, acute renal failure, and hyponatremia.
   #  Altered mental status: resolving compared to admission.  This is
   more likely [**12-28**] ingestion as opposed to CNS process.  Patient has
   positive tox screen for methadone and tricyclics.  Patient denies
   having taken methadone.  Takes tricyclics at home and this dose has
   recently been increased.  Overdose would result in tachycardia,
   hypotension, and urinary retention, which she has demonstrated. CT head
   negative. Neuro exam non focal.  No ketonuria. If this is in fact an
   ingestion, would continue with supportive care.  Toxicology was
   consulted. Thought this might be amitryptiline overdose, but couldn
   be sure. QRS interval prolonged this morning to 110ms.
   -supplemental O2 as needed
   -IV fluids to keep MAPs>55
   -if becomes less responsive or apneic, would give narcan
   -speak with outpatient providers regarding current pain and psychiatric
   regimen
   -restart MS contin 60mg po tid
   .
   # Hypotension: resolved.  Differential includes hypovolemia vs.
   tricyclic ingestion vs. methadone ingestion. Afebrile. No focal signs
   of infection concerning for septic physiology. Adrenal insufficiency is
   an alternate possibility.
   -f/u culture data
   .
   .
   # Acute renal failure: resolving.  Baseline Cr 0.6. Cr 3.9 on
   admission. Likely prerenal given history of poor po intake over past
   week, and marked improvement with IV fluids.  However, patient had 1L
   retained urine in ED, more concerning for ingestion. Renal US negative
   for hydronephrosis.
   -trend CK
   -encourage po intake. No need for IV fluids this morning.
   -renal consulted -f/u recs
   .
   # Hyponatremia: resolved
   .
   # Urinary retention: Ingestion vs. obstruction. Likely ingestion given
   overall clinical picture and positive tox screen for tricyclics and
   methadone.
   -foley in place
   .
   # FEN: IVFs / replete lytes prn / NPO for now given altered mental
   status.
   # PPX: heparin SQ, bowel regimen
   # ACCESS: PIV x2
   # CODE: FULL
   # CONTACT:
   # DISPO:Call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2168-10-11**] 05:37 PM
   18 Gauge - [**2168-10-11**] 05:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-10-13 10:27:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Psych consult
   - Substance abuse nurse [**First Name (Titles) **]
[**Last Name (Titles) 1822**]ies:
   Neurontin (Oral) (Gabapentin)
   Headache;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-10-12**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-10-13**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 95 (65 - 105) bpm
   BP: 142/91(103) {103/50(34) - 142/99(103)} mmHg
   RR: 18 (7 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    440 mL
                                                                     16 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                    240 mL
                                                                     16 mL
   Blood products:
   Total out:
                                                                  2,380 mL
                                                                    760 mL
   Urine:
                                                                  2,380 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,940 mL
                                                                   -744 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   280 K/uL
   94 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.6 mEq/L
   16 mg/dL
   110 mEq/L
   142 mEq/L
   23.8 %
   4.3 K/uL
        [image002.jpg]
                            [**2168-10-11**]  06:14 PM
                            [**2168-10-11**]  07:03 PM
                            [**2168-10-11**]  09:56 PM
                            [**2168-10-12**]  04:35 AM
                            [**2168-10-13**]  04:58 AM
   WBC
   5.4
   5.4
   4.3
   Hct
   25.3
   24.9
   23.8
   Plt
   [**Telephone/Fax (3) 11629**]
   Cr
   2.1
   1.5
   1.1
   0.7
   TCO2
   20
   Glucose
   118
   113
   87
   94
   Other labs: PT / PTT / INR:12.0/22.2/1.0, CK / CKMB / Troponin-T:857//,
   ALT / AST:40/45, Alk Phos / T Bili:125/0.2, Lactic Acid:0.5 mmol/L,
   LDH:197 IU/L, Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:1.4 mg/dL
   Imaging: No new imaging.
   Microbiology: Flu negative.  No other new culture data.
   Assessment and Plan
   This is a 44 yo F with a history of chronic back pain, found today with
   altered mental status, hypotension, acute renal failure, and
   hyponatremia in the setting of a tox screen positive for tricyclics and
   methadone.
   #  Altered mental status: Broad differential including hyponatremia,
   uremia, hypotension, or toxic ingestion (methadone or tricyclic
   overdose).  Tricyclic toxicity would fit with her hypotension,
   tachycardia, and urinary retention.  Head CT negative and neuro exam
   non-focal.   Improved today.
   - Fall precautions
   - Appreciate psychiatry consult for affect and illicit methadone use
   # Hypotension/Syncope: Differential includes hypovolemia vs. tricyclic
   ingestion vs. methadone ingestion. Afebrile. No focal signs of
   infection concerning for septic physiology. No further episodes since
   admission.
   - F/U cultures
   # Acute renal failure: Creatinine back to baseline 0.7 with foley
   placement and IVF.
   - D/c foley and following voiding
   # Urinary retention: Ingestion vs. obstruction. Likely ingestion given
   overall cinical picture and positive tox screen for tricyclics and
   methadone.   Renal U/S unremarkable.
   - Foley in place
   # Pain:
   - Restarted home regimen
   - Discuss management with outpatient MD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2168-10-11**] 05:37 PM
   18 Gauge - [**2168-10-11**] 05:38 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 15 minutes